US05302720
A mixture of 2-amino-3'-methylthiobiphenyl hydrochloride (3.3 g), N,N-dimethylcyanamide (1.55 ml) and m-cresol (10 ml) was heated at 90°-95° C. for 14 hours to give N,N-dimethyl-N'-(3'-methylthio-2-biphenylyl)guanidine (m.p. 94°-95° C.) which was recrystallised from hexane.

reactant | 2-amino-3'-methylthiobiphenyl hydrochloride | 3.3 g | Cl.NC1=C(C=CC=C1)C1=CC(=CC=C1)SC
reactant | N,N-dimethylcyanamide | 1.55 ml | CN(C#N)C | C3H6N2
solvent | m-cresol | 10 ml | C1=C(C=CC=C1O)C | C7H8O
product | N,N-dimethyl-N'-(3'-methylthio-2-biphenylyl)guanidine | CN(C(=N)NC1=C(C=CC=C1)C1=CC(=CC=C1)SC)C | C16H19N3S
